US05998402
5-Benzyloxy-2-(4-benzyloxy-phenyl)-1-[4-(3-chloro-propoxy)-benzyl]-3-methyl-1H-indole
A solution consisting of 5-Benzyloxy-2-(4-benzyloxy-phenyl)-3-methyl-1H-indole No. 7 (6.5 g, 15.5 mmol) in DMF (60 mL) was cooled to 0° C. and treated with addition of sodium hydride (0.68 g, 17.0 mmol) and stirred for 20 minutes. A solution of 4-(3-chloropropoxy)-benzyl bromide No. 163 in DMF (10 mL) was then added slowly. The reaction was allowed to come to rt and stirred for 2 hours. The reaction was poured into water and extracted with ethyl acetate. The ethyl acetate was washed with water, brine and dried over magnesium sulfate and concentrated. The concentrate was treated with methanol and 5 g of the desired product precipitated as a white solid with a melting point of 130-132° C.

reactant | 5-Benzyloxy-2-(4-benzyloxy-phenyl)-3-methyl-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C29H25NO2
reactant | sodium hydride | 17.0 mmol, 0.68 g | [H-].[Na+]
reactant | 4-(3-chloropropoxy)-benzyl bromide | ClCCCOC1=CC=C(CBr)C=C1 | C10H12BrClO
reactant | water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Benzyloxy-2-(4-benzyloxy-phenyl)-1-[4-(3-chloro-propoxy)-benzyl]-3-methyl-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)OCCCCl)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C39H36ClNO3
